US07750003B2
4-{2-Chloro-6-[(phenylsulfonyl)methyl]pyrimidin-4-yl}morpholine
2,4-Dichloro-6-[(isopropylsulfonyl)methyl]pyrimidine (2.65 g, 9.85 mmol) was dissolved in DCM (50 mL) and stirred (under nitrogen) at −5° C. Triethylamine (1.5 mL, 10.84 mmol) was added to give a clear brown solution. Morpholine (0.86 mL, 9.85 mmol) was dissolved in DCM and added dropwise keeping the reaction below −5° C. The cooling bath was then removed and the reaction mixture stirred at room temperature for 1 hour. The reaction mixture was then washed with water (50 mL), dried over magnesium sulphate, filtered and concentrated in vacuo. The crude material was chromatographed on silica, eluting with 0-50% ethyl acetate in DCM to give the desired material (2.5 g).

reactant | 2,4-Dichloro-6-[(isopropylsulfonyl)methyl]pyrimidine | 9.85 mmol, 2.65 g | ClC1=NC(=CC(=N1)Cl)CS(=O)(=O)C(C)C | C8H10Cl2N2O2S
reactant | Triethylamine | 10.84 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | Morpholine | 9.85 mmol, 0.86 mL | N1CCOCC1 | C4H9NO
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-{2-Chloro-6-[(phenylsulfonyl)methyl]pyrimidin-4-yl}morpholine | 2.5 g | ClC1=NC(=CC(=N1)N1CCOCC1)CS(=O)(=O)C1=CC=CC=C1 | C15H16ClN3O3S
